US06652901B2
Saccharine:
190 times, Sodium Saccharine: 190 times, disodium glycyrrhizinate: 100 times, Alitame: 2000 times, Glycyrrhizin: 170 times, Stevioside: 140 times, and Thaumatin: 850 times.

reactant | Sodium Saccharine | S1(=O)(=O)NC(=O)C2=CC=CC=C12.[Na]
reactant | disodium glycyrrhizinate | C[C@]12CC[C@](C[C@H]1C3=CC(=O)[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC2)C)C)(C)C)O[C@@H]6[C@@H]([C@H]([C@@H]([C@H](O6)C(=O)[O-])O)O)O[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)C(=O)[O-])O)O)O)C)(C)C(=O)O.[Na+].[Na+]
reactant | Alitame | C[C@H](C(=O)NC1C(SC1(C)C)(C)C)NC(=O)[C@H](CC(=O)O)N | C14H25N3O4S
reactant | Glycyrrhizin | C[C@]12CC[C@](C[C@H]1C3=CC(=O)[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC2)C)C)(C)C)O[C@@H]6[C@@H]([C@H]([C@@H]([C@H](O6)C(=O)O)O)O)O[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)C(=O)O)O)O)O)C)(C)C(=O)O | C42H62O16
reactant | Stevioside | C[C@@]12CCC[C@@]([C@H]1CC[C@]34[C@H]2CC[C@](C3)(C(=C)C4)O[C@H]5[C@@H]([C@H]([C@@H]([C@H](O5)CO)O)O)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)CO)O)O)O)(C)C(=O)O[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)CO)O)O)O | C38H60O18
product | Saccharine | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
